US06849203B2
2-(4-Hexyloxy-benzylidene)-indan-1-one (2)
1-Indanone (4.17 g, 0.032 mol) was dissolved in ethanol (20 ml), and was added to sodium hydroxide (0.44 g, 0.011 mol) dissolved in water (8 ml) and ethanol (3 ml) and was left to stir for 20 min. 4-(Hexyloxy)benzaldehyde (6.4 ml, 0.031 mol), dissolved in ethanol (35 ml), was added to the mixture and was stirred for 4 hours. The product was isolated by vacuum filtration and was washed with cold ethanol (2×20 ml) and was dried in a vacuum oven. Yield=8.47 g, 85%. 1H NMR and 13C NMR gave expected signals.

reactant | 1-Indanone | 0.032 mol, 4.17 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | sodium hydroxide | 0.011 mol, 0.44 g | [OH-].[Na+]
reactant | 4-(Hexyloxy)benzaldehyde | 0.031 mol, 6.4 ml | C(CCCCC)OC1=CC=C(C=O)C=C1 | C13H18O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 8 ml | O | H2O
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-(4-Hexyloxy-benzylidene)-indan-1-one | C(CCCCC)OC1=CC=C(C=C2C(C3=CC=CC=C3C2)=O)C=C1 | C22H24O2
